US07495015B2
In Scheme I, fluoronitrotoluene a is reacted with phenol b in the presence of mild base such as potassium carbonate, to afford a phenoxy nitrotoluene c. Phenoxy nitrotoluene c is then reduced, using catalyzed hyrdogenation or othe reduction technique, to provide phenoxy aminotoluene d. Phenoxy aminotoluene d undergoes a cyclization reaction by treatment with isoamyl nitrate to form phenoxy indazole e. Phenoxy indazole e is subject to iodine under basic conditions to yield a phenoxy iodoindazine f, which is then protected via Boc, Fmoc or other suitable protection scheme, to afford a protected phenoxy iodoindazole g. The protected phenoxy iodoindazole g is treated with a phenyl boronic acid h in the presence of a suitable catalyst to form a phenoxy phenylindazole i, which is deprotected to provide an indazole derivative j in accordance with the invention.

reactant | phenoxy iodoindazole | O(C1=CC=CC=C1)C1=C2C(=NNC2=CC=C1)I | C13H9IN2O
reactant | phenyl boronic acid | C1(=CC=CC=C1)B(O)O | C6H7BO2
product | phenoxy phenylindazole | O(C1=CC=CC=C1)C1=C2C(=NNC2=CC=C1)C1=CC=CC=C1 | C19H14N2O
